US06784167B2
To a solution of ethyl 2-(3-trimethylsilyl-N-methylprop-2-ynoylamino)acetate (5.28 g, 21.9 mmol) in THF (80 mL) was added dropwise a solution of TBAF (1M in THF, 24.0 mL, 24.0 mmol). After stirring for 10 min, a saturated NH4Cl solution (150 mL) was added and the resulting mixture was extracted with EtOAc (3×100 mL). The organic layer was washed with a saturated NaCl solution (400 mL), dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography (50% EtOAc/hex) to give ethyl 2-(N-methylprop-2-ynoylamino)acetate (1.9 g, 51%) as a yellow oil: TLC (50% EtOAc/hex) Rf 0.50; 1H NMR (CDCl3; a mixture of two rotomers) δ 1.26-1.33 (m, 3H), 3.03 (s, 1.2H), 3.29 (s, 1.8H), 3.09 (s, 0.43H), 3.17 (s, 0.57H), 4.16 (s, 1.1H), 4.33 (s, 0.9H), 4.17-4.28 (m, 2H).

reactant | ethyl 2-(3-trimethylsilyl-N-methylprop-2-ynoylamino)acetate | 21.9 mmol, 5.28 g | C[Si](C#CC(=O)N(C)CC(=O)OCC)(C)C | C11H19NO3Si
reactant | TBAF | 24.0 mmol, 1M, 24.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | ethyl 2-(N-methylprop-2-ynoylamino)acetate | 1.9 g, 51% | CN(CC(=O)OCC)C(C#C)=O | C8H11NO3
